US09145380B2
2,3-Dichloro-N-(4,5-difluoro-2-sulfamoylphenyl)benzenesulfonamide
2-Amino-4,5-difluorobenzenesulfonamide (99 mg, 0.48 mmol) and dichlorobenzenesulfonyl chloride (152 mg, 0.62 mmol) were dissolved in anhydrous pyridine (2 mL). The mixture was stirred at ambient temperature under an atmosphere of argon for 24 h. The solvent was evaporated in vacuo, water was added and the product was extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate and concentrated. Purification by preparative HPLC gave 107 mg (54% yield) of the title compound.

reactant | 2-Amino-4,5-difluorobenzenesulfonamide | 0.48 mmol, 99 mg | NC1=C(C=C(C(=C1)F)F)S(=O)(=O)N | C6H6F2N2O2S
reactant | dichlorobenzenesulfonyl chloride | 0.62 mmol, 152 mg | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)Cl | C6H3Cl3O2S
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2,3-Dichloro-N-(4,5-difluoro-2-sulfamoylphenyl)benzenesulfonamide | 107 mg, 54% yield | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=C(C=C(C(=C1)F)F)S(N)(=O)=O | C12H8Cl2F2N2O4S2
